US08420680B2
(S)-1-(4-(2-hydroxy-3-(4-phenylpiperazin-1-yl)propoxy)phenyl)urea.
A mixture of 0.1 g of (S)-1-(4-(oxiran-2-ylmethoxy)phenyl)urea, 0.14 g of N-phenyl-piperazine, and 6 mL of absolute ethanol was heated to 70° C. for 20 hrs. The reaction was cooled, and the resulting precipitate collected by filtration. The solids were washed three times with ethanol, and dried. 0.126 g of the title compound was obtained as a fluffy white powder was obtained. 1H NMR (d6-DMSO): δ 2.36 (dd, 1H, J=6 Hz, J=13 Hz), 2.48 (m, 1H), 2.55 (m, 4H), 3.08 (t, 4H, J=5 Hz), 3.78 (dd, 1H, J=6 Hz, J=9 Hz), 3.89 (m, 1H), 3.93 (m, 1H), 4.84 (d, 1H, J=5 Hz), 5.68 (s, 2H), 6.73 (t, 1H, J=8 Hz), 6.78 (d, 2H, J=9 Hz), 6.88 (d, 2H, J=8 Hz), 7.16 (t, 2H, J=8 Hz), 7.24 (d, 2H, J=9 Hz), 8.27 (s, 1H); MS: 371 (M+H); HRMS: Observed: 371.20723; HPLC: 100% peak area composition; retention time=6.64 min.

reactant | (S)-1-(4-(oxiran-2-ylmethoxy)phenyl)urea | 0.1 g | O1[C@@H](C1)COC1=CC=C(C=C1)NC(=O)N | C10H12N2O3
reactant | N-phenyl-piperazine | 0.14 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | (S)-1-(4-(2-hydroxy-3-(4-phenylpiperazin-1-yl)propoxy)phenyl)urea | 0.126 g | O[C@H](COC1=CC=C(C=C1)NC(=O)N)CN1CCN(CC1)C1=CC=CC=C1 | C20H26N4O3
